US05514680
3-Chloro-2,4-difluoro-(trifluoroacetamido)benzene
To a solution of 10.5 g (64.3 mmol) of 3-chloro-2,4-difluoroaniline in 25 mL of dioxane kept in an ice-bath was added dropwise 10 mL (14.8 g, 70.4 mmol) of trifluoroacetic anhydride. The solution was stirred at room temperature for 20 h. It was then added into 150 mL of ice-water and the mixture was stirred for 1 h. It was filtered and washed by water, and dried to leave almost colorless solid 16.1 g (96%), mp 73°-74° C. 1H NMR (CDCl3), 7.068 (m, 1), 7.976 (mb, 1), 8.146 (m, 1).

reactant | 3-chloro-2,4-difluoroaniline | 64.3 mmol, 10.5 g | ClC=1C(=C(N)C=CC1F)F | C6H4ClF2N
reactant | trifluoroacetic anhydride | 70.4 mmol, 10 mL, 14.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-Chloro-2,4-difluoro-(trifluoroacetamido)benzene | 16.1 g, 96% | ClC=1C(=C(C=CC1F)NC(C(F)(F)F)=O)F | C8H3ClF5NO
